US07863294B2
Step 4: (2-Methoxyquinolin-3-yl)boronic acid (FF4)
(2-Fluoroquinolin-3-yl)boronic acid was dissolved in 1.25M HCl in MeOH and stirred for 1 hr at RT. The mixture was quenched with sat. aq. NaHCO3 solution and the mixture was extracted with DCM (3×). The organics were dried (Na2SO4) and concentrated under reduced pressure to yield the crude product as a pale yellow solid which was used in the next step without further purification. MS (ES) C10H10BNO3 requires: 203, found: 204 (M+H)+.

reactant | (2-Fluoroquinolin-3-yl)boronic acid | FC1=NC2=CC=CC=C2C=C1B(O)O | C9H7BFNO2
reactant | MeOH | CO | CH4O
solvent | HCl | 1.25M | Cl | ClH
product | (2-Methoxyquinolin-3-yl)boronic acid | COC1=NC2=CC=CC=C2C=C1B(O)O | C10H10BNO3
